US07635684B2
To a solution of 3-amino-2,2-dimethyl-1-propanol (5 g) in methanol (50 mL) was added di-tert-butyl dicarbonate (12.7 g), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure. The residue (solid) was treated with n-hexane-diethyl ether and collected by filtration, washed with n-hexane and dried under reduced pressure to give 3-(tert-butoxycarbonylamino)-2,2-dimethyl-1-propanol (7.48 g). To this material were added carbon tetrachloride (40 mL), acetonitrile (40 mL), water (48 mL), sodium periodate (38.8 g) and ruthenium trichloride-n hydrate (1 g) successively, and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with water, and the resulting mixture was extracted with ethyl acetate.

reactant | 3-amino-2,2-dimethyl-1-propanol | 5 g | NCC(CO)(C)C | C5H13NO
reactant | di-tert-butyl dicarbonate | 12.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 50 mL | CO | CH4O
product | 3-(tert-butoxycarbonylamino)-2,2-dimethyl-1-propanol | 7.48 g | C(C)(C)(C)OC(=O)NCC(CO)(C)C | C10H21NO3
